US04386081
(b) Dimethyl p-tolyloxycarbonylphosphonate
From 10.3 g (85 mmole) of trimethylphosphite and 10.3 g (60 mmole) of p-tolyl chloroformate (prepared according to M. J. Zabik and R. D. Schuetz, J. Org. Chem. 32 (1967) 300). (100° C., 2 hours). Yield 93%. Bp0.2 131° C., nD20 1.4972.

reactant | trimethylphosphite | 85 mmole, 10.3 g | COP(OC)OC | C3H9O3P
reactant | p-tolyl chloroformate | 60 mmole, 10.3 g | ClC(=O)OC1=CC=C(C=C1)C | C8H7ClO2
product | Dimethyl p-tolyloxycarbonylphosphonate | Yield 93% | C1(=CC=C(C=C1)OC(=O)P(OC)(OC)=O)C | C10H13O5P
